US07625889B2
Step 1: 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-indazole-1-carboxylic acid tert-butyl ester:
A mixture of 5-bromo-indazole-1-carboxylic acid tert-butyl ester (1.8 g, 6.19 mmol), bis(pinacolato)diboron (1.73 g, 6.80 mmol), potassium acetate (2.43 g, 24.7 mmol) and PdCl2(dppf).DCM (505 mg, 0.62 mmol) in degassed, anhydrous DMSO was evacuated and then repressurized with nitrogen. This process was repeated several times to minimize the amount of oxygen in the reaction mixture. The mixture was heated at 85° C. for 4.5 h. The reaction was diluted with DCM and washed with water and brine, dried over MgSO4, filtered and evaporated to give a dark brown syrup. Chromatography on silica gel, eluting with 75% diethyl ether/heptane gave 1.47 g of the product.

reactant | 5-bromo-indazole-1-carboxylic acid tert-butyl ester | 6.19 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)Br | C12H13BrN2O2
reactant | bis(pinacolato)diboron | 6.80 mmol, 1.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 24.7 mmol, 2.43 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.62 mmol, 505 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-indazole-1-carboxylic acid tert-butyl ester | 1.47 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C | C18H25BN2O4
